US04339386
C. 5-(3,4-Dimethoxyphenyl)-2-furancarboxaldehyde-O-[(methylamino)-carbonyl]oxime
5-(3,4-Dimethoxyphenyl)furylformaldoxime (9.5 g, 0.038 mole) and DMF (500 ml) was treated with methyl isocyanate (16 ml, 0.27 mole). The solution was stirred at room temperature for 4 hours and at steam bath temperature for 1 hour. The reaction solution was poured into 3 liters of water. The tan precipitate was collected to give 6 g (51%) of product.

reactant | 5-(3,4-Dimethoxyphenyl)furylformaldoxime | 0.038 mole, 9.5 g | COC=1C=C(C=CC1OC)C1=CC=C(O1)C=NO | C13H13NO4
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
reactant | methyl isocyanate | 0.27 mole, 16 ml | CN=C=O | C2H3NO
solvent | water | 3 liters | O | H2O
product | 5-(3,4-Dimethoxyphenyl)-2-furancarboxaldehyde-O-[(methylamino)-carbonyl]oxime | 6 g, 51% | CNC(=O)ON=CC=1OC(=CC1)C1=CC(=C(C=C1)OC)OC | C15H16N2O5
